US07259266B2
Step 1. Preparation of ethyl 7-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of 2-hydroxy 4-methyl benzaldehyde (50.0 g, 0.367 mole) and ethyl 4,4,4-trifluorocrotonate (308.8 g, 1.84 mole) was dissolved in anhydrous DMF (10 mL) and Et3N (20 mL) warmed to 60° C. and treated with anhydrous K2CO3 (81 g, 0.58 mole). The solution was maintained at 90° C. for 2 hours, LCMS indicated 60% converting. Additional Et3N (10 mL) was added to the mixture and the reaction was heated for another 2 hr. The reaction was cooled to room temperature, and diluted with water. The solution was extracted with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford a brown oil, solidify upon standing. The crystalline solid was collected and washed with hexane and dried to give 40.2 g off white crystalline solid. The mother liquor was concentrated to give crude, which was recrystalized from EtOH and water to give 48.5 g offwhite solid (totally yield 84%): LCMS m/z 287.15 (M+H). 1H NMR (CDCl3/300 MHz) 7.70 (s, 1H), 7.11 (d, 1H, J=8.1 Hz), 6.80 (m, 2H), 5.67 (q, 1H, J=6 Hz), 4.29 (in, 2H), 1.33 (t, 3H, J=7.2 Hz).

reactant | 2-hydroxy 4-methyl benzaldehyde | 0.367 mole, 50.0 g | OC1=C(C=O)C=CC(=C1)C | C8H8O2
reactant | ethyl 4,4,4-trifluorocrotonate | 1.84 mole, 308.8 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | Et3N | 20 mL | CCN(CC)CC | C6H15N
reactant | K2CO3 | 0.58 mole, 81 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 7-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 48.5 g, yield 84% | CC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C14H13F3O3
